US06455708B1
Preparation of 1-Fluoro-2-fluoromethyl-3-butyn-2-yl Methanesulfonate
An amount (1.2 g) of 1-fluoro-2-fluoromethyl-3-butyn-2-ol was dissolved in tetrahydrofuran (10 ml); to the solution under cooling with ice, 60% oily sodium hydride (0.48 g) was added under a nitrogen atmosphere. The solution was stirred for 30 minutes under cooling with ice and then methanesulfonyl chloride (1.1 ml) was added dropwise. The solution was stirred for 2.5 hours while its temperature was raised to room temperature. To the reaction mixture, etcher was added, followed by extraction with diethyl ether. The extract was washed with water and a saturated aqueous solution of sodium chloride, and dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; 30% ethyl acetate/hexane) to give the titled compound (1.6 g).

reactant | 1-fluoro-2-fluoromethyl-3-butyn-2-ol | 1.2 g | FCC(C#C)(O)CF | C5H6F2O
reactant | sodium hydride | 0.48 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 1.1 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-Fluoro-2-fluoromethyl-3-butyn-2-yl Methanesulfonate | 1.6 g | CS(=O)(=O)OC(CF)(C#C)CF | C6H8F2O3S
